US06906072B1
Reference Example 48 4-cyano-5-methyl-4-(5-cyano-2-thienyl)hexyl Iodide
1.05 g (4.23 mmol) of 4-cyano-5-methyl-4-(5-cyano-2-thienyl)hexanol was dissolved in 40 ml of acetonitrile and 0.80 ml (5.71 mmol) of triethylamine. 0.39 ml (5.07 mmol) of mesyl chloride was added thereto. After about 0.10 minutes, 6.34 g (42.3 mmol) of sodium iodide was added. After completion of the reaction, brine and ethyl acetate were added. The ethyl acetate layer was washed with an aqueous sodium thiosulfate and brine, dried over magnesium sulfate and evaporated, to give a crude product. The crude product was subjected to silica gel (eluted with ethyl acetate:hexane=1:2), to give 1.39 g (3.88 mmol, 91.7%) of the title compound as a yellow oil.

reactant | 4-cyano-5-methyl-4-(5-cyano-2-thienyl)hexanol | 4.23 mmol, 1.05 g | C(#N)C(CCCO)(C(C)C)C=1SC(=CC1)C#N | C13H16N2OS
reactant | triethylamine | 5.71 mmol, 0.80 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 5.07 mmol, 0.39 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | sodium iodide | 42.3 mmol, 6.34 g | [I-].[Na+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-cyano-5-methyl-4-(5-cyano-2-thienyl)hexyl Iodide | 3.88 mmol, 1.39 g, 91.7% | C(#N)C(CCCI)(C(C)C)C=1SC(=CC1)C#N | C13H15IN2S
